US06995144B2
3-[4-[2-Fluoro-2-(2-fluorophenyl)ethyl]piperidino]methyl-1H-pyrazin-2-one
After dissolving 64 mg of 4-[2-fluoro-2-(2-fluorophenyl)ethyl]piperidine in 3 ml of tetrahydrofuran, 61 mg of 3-tert-butoxy-2-pyrazinecarboxaldehyde and 90 mg of sodium triacetoxyborohydride were added while stirring, and the stirring was continued overnight at room temperature. A 1N sodium hydroxide solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate). Two milliters of a 4N hydrogen chloride/ethyl acetate solution was added to the obtained product while stirring, and the stirring was continued for 2.5 hours at room temperature. A 1N sodium hydroxide solution was added to the reaction solution and extraction was performed with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether/n-hexane was added to the residue and the insoluble portion was filtered out to obtain the title compound (5 mg, 5% yield).

reactant | 4-[2-fluoro-2-(2-fluorophenyl)ethyl]piperidine | 64 mg | FC(CC1CCNCC1)C1=C(C=CC=C1)F | C13H17F2N
reactant | 3-tert-butoxy-2-pyrazinecarboxaldehyde | 61 mg | C(C)(C)(C)OC=1C(=NC=CN1)C=O | C9H12N2O2
reactant | sodium triacetoxyborohydride | 90 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-[2-Fluoro-2-(2-fluorophenyl)ethyl]piperidino]methyl-1H-pyrazin-2-one | 5 mg, 5% yield | FC(CC1CCN(CC1)CC=1C(NC=CN1)=O)C1=C(C=CC=C1)F | C18H21F2N3O
